US06916806B2
To a solution of 2-(2-isopropylphenyl)imino-5,5-dimethyl-1,3-thiazine (0.26 g), 5-trifluoromethyl-2-chloropyridine (0.24 g) in N,N-dimethylformamide (3 ml) was added 60% sodium hydride (0.05 g) under ice-cooling. The mixture was stirred at room temperature for 2 h. To a reaction mixture was added water (80 ml), extracted with diethylether (100 ml), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate) to give 2-(2-isopropylphenyl)imino-3-(5-trifluoromethyl-2-pyridyl)-5,5-dimethyl-1,3-thiazine (0.13 g, yield: 32%) as colorless oil.

reactant | 2-(2-isopropylphenyl)imino-5,5-dimethyl-1,3-thiazine | 0.26 g | C(C)(C)C1=C(C=CC=C1)N=C1SCC(C=N1)(C)C | C15H20N2S
reactant | 5-trifluoromethyl-2-chloropyridine | 0.24 g | FC(C=1C=CC(=NC1)Cl)(F)F | C6H3ClF3N
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | water | 80 ml | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(2-isopropylphenyl)imino-3-(5-trifluoromethyl-2-pyridyl)-5,5-dimethyl-1,3-thiazine | 0.13 g, yield: 32% | C(C)(C)C1=C(C=CC=C1)N=C1SCC(CN1C1=NC=C(C=C1)C(F)(F)F)(C)C | C21H24F3N3S
